US06171866B2
2.1.1. 4-Nitro-2,5-dimethoxyphenethylamine (J2)
45.5 g (250 mmol) 2,5-dimethoxyphenethylamine J1 was mixed with 40 ml water and cooled to 0° C. while 30 ml conc. HCl was added slowly. The resultant milky emulsion was cooled to 0 to 5° C., and 65 ml conc. HNO3 was added slowly and carefully within about 2 hours, keeping the temperature below 10° C. The mixture solidified when about half of the HNO3 had been added. 50 ml icy water was added to render the mixture stirrable. Then the rest of the HNO3 was added. The mixture was warmed up to room temperature and stirred at room temperature for 3 hours, was basified with 40% NaOH to pH>12 and then extracted with 2×11 CHCl3. The CHCl3 extraction was back washed with 3×110.5 M NaOH and dried over 15 g K2CO3. The solvent was evaporated to afford 49.8 g orange oil (yield: 88%), which crystallized when cooled.

reactant | 2,5-dimethoxyphenethylamine | 250 mmol, 45.5 g | COC1=C(CCN)C=C(C=C1)OC | C10H15NO2
reactant | HCl | 30 ml | Cl | ClH
reactant | HNO3 | 65 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | 4-Nitro-2,5-dimethoxyphenethylamine | 49.8 g, yield: 88% | [N+](=O)([O-])C1=CC(=C(CCN)C=C1OC)OC | C10H14N2O4
